US06245778B1
3-Amino-6-benzyl-5,6,7,8-tetrahydro[1,6]naphthyridine
6-Benzyl-3-nitro-5,6,7,8-tetrahydro-[1,6]-naphthyridine (790 mg; 2.93 mmol) was dissolved in ethanol (100 ml), the solution heated at 50° C. and treated with a solution of stannous chloride dihydrate (2.65 g; 11.73 mmol) in conc. hydrochloric acid (10 ml). After 10 min, the reaction mixture was concentrated under reduced pressure, neutralised by addition of 2M aqueous sodium hydroxide and extracted with DCM. The extracts were combined, washed with water, saturated brine, dried (MgSO4) and evaporated to dryness in vacuo. The brown residue was dissolved in methanol and SiO2 added. The volatiles were removed under reduced pressure and the dried SiO2 placed on the top of a silica column and subjected to chromatography, eluting with ethanol in ethyl acetate (020%) ethanol gradient. The title compound was obtained as a white powder (275 mg; 39%).

reactant | 6-Benzyl-3-nitro-5,6,7,8-tetrahydro-[1,6]-naphthyridine | 2.93 mmol, 790 mg | C(C1=CC=CC=C1)N1CC=2C=C(C=NC2CC1)[N+](=O)[O-] | C15H15N3O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 3-Amino-6-benzyl-5,6,7,8-tetrahydro[1,6]naphthyridine | NC=1C=NC=2CCN(CC2C1)CC1=CC=CC=C1 | C15H17N3
